US06384080B1
10% Palladium on activated carbon (10 mg) was added to a solution of (S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propanol (920 mg) in methanol (10 mL) and dioxane (1 mL). The mixture was stirred under hydrogen atmosphere (3.5 atm) for one and a half days at ambient temperature. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate, dried over magnesium sulfate, and concentrated in vacuo to give (S)-2-amino-3-(tert-butoxycarbonylamino)propanol (571 mg) as a white solid substance.

reactant | (S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propanol | 920 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)CNC(=O)OC(C)(C)C | C16H24N2O5
catalyst | Palladium on activated carbon | 10 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-2-amino-3-(tert-butoxycarbonylamino)propanol | 571 mg | N[C@H](CO)CNC(=O)OC(C)(C)C | C8H18N2O3
